US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-2,4-dimethyl-1,3-oxazole-5-carboxamide
In the same manner as in Example 18-4 and using 2,4-dimethyl-1,3-oxazole-5-carboxylic acid (127 mg, 0.904 mmol), tetrahydrofuran (8 mL), oxalyl chloride (118 μL, 1.36 mmol), N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (70.0 mg, 0.226 mmol), N,N-dimethylformamide (1 drop) and N,N-dimethylacetamide (3 mL) as starting materials, the title compound (69.2 mg, 71%) was obtained as a white solid.

reactant | 2,4-dimethyl-1,3-oxazole-5-carboxylic acid | 0.904 mmol, 127 mg | CC=1OC(=C(N1)C)C(=O)O | C6H7NO3
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 1.36 mmol, 118 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.226 mmol, 70.0 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-2,4-dimethyl-1,3-oxazole-5-carboxamide | 69.2 mg, 71% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=C(N=C(O2)C)C)=N1 | C22H20N6O4
